US03953595
2-Benzyloxy-5-trifluoromethylbenzoic Acid Sodium Salt
To a solution of 400 mg. (0.01 mole) of sodium hydroxide in 30 ml. of water is added, in portions and with stirring, 2.96 g. (0.01 mole) of 2-benzyloxy-5-trifluoromethylbenzoic acid. The slightly hazy solution is filtered and the filtrate concentrated at room temperature and under reduced pressure to dryness. The residual sodium salt is triturated with acetone and filtered.

reactant | sodium hydroxide | 0.01 mole | [OH-].[Na+]
reactant | 2-benzyloxy-5-trifluoromethylbenzoic acid | 0.01 mole | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C15H11F3O3
solvent | water | O | H2O
product | 2-Benzyloxy-5-trifluoromethylbenzoic Acid Sodium Salt | [Na+].C(C1=CC=CC=C1)OC1=C(C(=O)[O-])C=C(C=C1)C(F)(F)F | InChI=1S/C15H11F3O3.Na/c16-15(17,18)11-6-7-13(12(8-11)14(19)20)21-9-10-4-2-1-3-5-10;/h1-8H,9H2,(H,19,20);/q;+1/p-1
